US07144896B2
Step 1: 3-Bromo-N-(3,5-dichloro-pyridin-4-yl)-benzamide
To a solution of 4-amino 3,5-dichloro pyridine in THF (0.5M) at 0° C. was added NaH (1.5 eq). The mixture was stirred at 0° C. for 30 min then 3-bromo benzoyl chloride (2.0 eq.) was added dropwise. The resulting mixture was stirred 12 hours at room temperature, poured in water and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over Na2 SO4, filtered and concentrated. Flash chromatography (Hex:EtOAc; 1:1) afforded the desired compound a yellow solid.

reactant | 4-amino 3,5-dichloro pyridine | NC1=C(C=NC=C1Cl)Cl | C5H4Cl2N2
reactant | NaH | 1.5 eq | [H-].[Na+]
reactant | 3-bromo benzoyl chloride | 2.0 eq. | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
solvent | THF | 0.5M | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-Bromo-N-(3,5-dichloro-pyridin-4-yl)-benzamide | BrC=1C=C(C(=O)NC2=C(C=NC=C2Cl)Cl)C=CC1 | C12H7BrCl2N2O
